US06204264B1
(3) Ethyl 1-octadecyl-1H-benzimidazole-2-carboxylate
Ethyl glyoxylate (7.861 g) and iodide (4.886 g) were added to a solution containing N-octadecyl-1,2-benzenediamine (6.940 g) in ethanol (100 ml) and the mixture was stirred for 2 hours at room temperature. A solution containing sodium thiosulfate pentahydrate (4.813 g) in water (60 ml) was added dropwise to the reaction mixture while being stirred. The reaction mixture, with ethyl acetate added thereto, was washed with saturated brine, dried over sodium sulfate anhydride, and concentrated. The residue (10.06 g) was purified by silica gel column chromatography (silica gel 255 g, chloroform), thereby yielding the entitled compound (6.442 g) as pale yellow solid.

reactant | Ethyl glyoxylate | 7.861 g | C(C=O)(=O)OCC | C4H6O3
reactant | iodide | 4.886 g | [I-]
reactant | N-octadecyl-1,2-benzenediamine | 6.940 g | C(CCCCCCCCCCCCCCCCC)NC=1C(=CC=CC1)N | C24H44N2
reactant | sodium thiosulfate pentahydrate | 4.813 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 1-octadecyl-1H-benzimidazole-2-carboxylate | 6.442 g | C(CCCCCCCCCCCCCCCCC)N1C(=NC2=C1C=CC=C2)C(=O)OCC | C28H46N2O2
